US06887896B1
(2E)-3-(7-Ethoxy-2,2,4-trimethyl-2H-chromen-6-yl)-2-fluoro-pent-2-en-1-ol (Compound 93)
Following General Procedure L, ethyl 3-(7-ethoxy-2,2,4-trimethyl-2H-chromen-6-yl)-2-fluoro-but-2-enoate (Compound 80,226 mg, 0.62 mmol) and diisobutylaluminum hydride (1 M in dichloromethane, 1.87 mL, 1.87 mmol) were reacted to give the title compound as yellow solid after purification by flash chromatography (silica gel, 1:4 ethyl acetate/hexane).

reactant | ethyl 3-(7-ethoxy-2,2,4-trimethyl-2H-chromen-6-yl)-2-fluoro-but-2-enoate | 0.62 mmol, 80,226 mg | C(C)OC1=C(C=C2C(=CC(OC2=C1)(C)C)C)C(=C(C(=O)OCC)F)C | C20H25FO4
reactant | diisobutylaluminum hydride | 1.87 mmol, 1 M, 1.87 mL | [H-].C(C(C)C)[Al+]CC(C)C
product | (2E)-3-(7-Ethoxy-2,2,4-trimethyl-2H-chromen-6-yl)-2-fluoro-pent-2-en-1-ol | C(C)OC1=C(C=C2C(=CC(OC2=C1)(C)C)C)/C(=C(\CO)/F)/CC | C19H25FO3
